US07790727B2
1.1 1-(2-Methoxy-5-nitro-phenyl)-piperazine
63 mL of 5 M sulphuric acid were dropwise added to 60 g of commercially available 1-(2-methoxyphenyl)-piperazine (312 mmol) within 30 minutes at 0° C., followed by the addition of 306 mL of concentr ated sulphuric acid. The mixture was stirred for 90 minutes. Then 25.2 g of potassium nitrate (249.65 mmol) were added in portions within 1 h. After stirring for 3 h, another 3.16 g of potassium nitrate (31.2 mmol) were added. When the reaction was complete, the mixture was poured onto 1 kg of ice water and the pH was adjusted to pH 12 with aqueous sodium hydroxide. 300 mL of water were added, the aqueous phase was extracted three times with 300 mL of ethyl acetate each. The organic phases were combined, dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure to yield 48.7 g of crude product. This material was dissolved in a small amount of diethyl ether. Crystallization started upon scratching the glass surface. The residue was filtered, washed with cold diethyl ether, and dried to yield 34.2 g of the title compound.

reactant | sulphuric acid | 5 M, 63 mL | S(O)(O)(=O)=O | H2O4S
reactant | 1-(2-methoxyphenyl)-piperazine | 312 mmol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium nitrate | 249.65 mmol, 25.2 g | [N+](=O)([O-])[O-].[K+]
reactant | potassium nitrate | 31.2 mmol, 3.16 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 300 mL | O | H2O
product | 1-(2-Methoxy-5-nitro-phenyl)-piperazine | 34.2 g | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
